US07250410B2
3-benzyl-8-ethoxy-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, XXIIbb.
By replacing (2-amino-4,5-dimethoxyphenyl)(phenyl)methanone (XXIaa) in example XXIIaa by (2-amino-4-ethoxy-5-methoxyphenyl)(phenyl)methanone (XXIak), and ethyl glycinate hydrochloride by ethyl phenylalalinate hydrochloride, and proceeding in the same manner, the abovenamed product is obtained. Yield: 55%. M: 190–193° C. 1H-NMR (DMSO, 200 MHz): d 1.33–1.39 (m, 3H, CH3), 3.36–3.64 (m, 3H, CH+CH2Bn), 3.73 (s, 3H, OCH3), 3.95–4.10 (m, 2H, CH2), 6.59 (s, 1H Ar), 6.77 (s, 1H Ar), 7.21–7.44 (m, 10H Ar), 10.36 (s, 1H, NH).

reactant | (2-amino-4-ethoxy-5-methoxyphenyl)(phenyl)methanone | NC1=C(C=C(C(=C1)OCC)OC)C(=O)C1=CC=CC=C1 | C16H17NO3
reactant | ethyl glycinate hydrochloride | Cl.NCC(=O)OCC
product | 3-benzyl-8-ethoxy-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 55% | C(C1=CC=CC=C1)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OC)=O | C25H24N2O3
